US06828116B1
i) 1-(3,5-Dinitrobenzyl)-2,3,3-trimethylindolium iodide
3,5-Dinitrobenzyl chloride (100 mg, 0.46 mmol), 2,3,3-trimethylindole (74 μ, 73.2 mg, 0.46 mmol) and sodium iodide (69 mg, 0.46 mmol) were heated at 100° C. in sulpholane (5 ml) for 16 hours. After cooling to room temperature the product was isolated by reverse phase HPLC (89.7 mg, 0.26 mmol, 57% yield).

reactant | 3,5-Dinitrobenzyl chloride | 0.46 mmol, 100 mg | [N+](=O)([O-])C=1C=C(CCl)C=C(C1)[N+](=O)[O-] | C7H5ClN2O4
reactant | 2,3,3-trimethylindole | 0.46 mmol, 73.2 mg | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | sodium iodide | 0.46 mmol, 69 mg | [I-].[Na+]
solvent | sulpholane | 5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-(3,5-Dinitrobenzyl)-2,3,3-trimethylindolium iodide | 57% yield | [I-].[N+](=O)([O-])C=1C=C(C[N+]2=C(C(C3=CC=CC=C23)(C)C)C)C=C(C1)[N+](=O)[O-] | InChI=1S/C18H18N3O4.HI/c1-12-18(2,3)16-6-4-5-7-17(16)19(12)11-13-8-14(20(22)23)10-15(9-13)21(24)25;/h4-10H,11H2,1-3H3;1H/q+1;/p-1
